US06077812
Step C 1-methyl-6-trifluoromethyl-3-(6-amino-4-chloro-2-fluoro-5-hydroxy-phenyl)-2,4(1H,3H)-pyrimidinedione
This compound was prepared in the manner of Step B of Example 1, using 1.5 grams (0.004 mole) 1-methyl-6-trifluoromethyl-3-(4-chloro-2-fluoro-5-hydroxy-6-nitrophenyl)-2,4(1H,3H)-pyrimidinedione, 3.0 grams (0.054 mole) of iron dust, and 5 mL of water in 50 mL of glacial acetic acid, yielding 1.0 gram of title compound. The NMR spectrum was consistent with the proposed structure.

reactant | 1-methyl-6-trifluoromethyl-3-(4-chloro-2-fluoro-5-hydroxy-6-nitrophenyl)-2,4(1H,3H)-pyrimidinedione | 0.004 mole, 1.5 grams | CN1C(N(C(C=C1C(F)(F)F)=O)C1=C(C=C(C(=C1[N+](=O)[O-])O)Cl)F)=O | C12H6ClF4N3O5
reactant | water | 5 mL | O | H2O
solvent | acetic acid | 50 mL | C(C)(=O)O | C2H4O2
catalyst | iron | 0.054 mole, 3.0 grams | [Fe] | Fe
product | 1-methyl-6-trifluoromethyl-3-(6-amino-4-chloro-2-fluoro-5-hydroxy-phenyl)-2,4(1H,3H)-pyrimidinedione | 1.0 gram | CN1C(N(C(C=C1C(F)(F)F)=O)C1=C(C=C(C(=C1N)O)Cl)F)=O | C12H8ClF4N3O3
